US07572820B2
C. 1-{1-[3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl]-1-methylethyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 37 from 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]-2-methylpropanoic acid and 4-fluoro-N-hydroxybenzenecarboximidamide using MeCN as the solvent, and HATU (1.05 eq), DIEA (1.05 eq), instead of EDCl, for the first coupling step: MS (ES) m/z 429 (M+1).

reactant | 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]-2-methylpropanoic acid | C(#N)C=1C(=C2C=C(N(C2=CC1)C(C(=O)O)(C)C)C)C(F)(F)F | C15H13F3N2O2
reactant | 4-fluoro-N-hydroxybenzenecarboximidamide | FC1=CC=C(C=C1)C(NO)=N | C7H7FN2O
reactant | HATU | 1.05 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.05 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
solvent | MeCN | CC#N | C2H3N
product | 1-{1-[3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl]-1-methylethyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=CC=C(C=C1)C1=NOC(=N1)C(C)(C)N1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C22H16F4N4O
